US04968843
Preparation of N-phenyl-N'-cyclohexyl-p-phenylenediamine
Into a three neck 500 ml flask equipped with a thermometer, stirrer, Dean Stark trap and condenser was charged 18.4 grams of N-phenylquinoneimine, 150 ml toluene, 19.9 cyclohexylamine and 5 drops methanesulfonic acid. The reaction was conducted at 110°C. for 1.5 hours after which time the product was washed with 200 ml water containing 10 grams of Na2S2O4. The product was decanted, filtered and stripped at a pot temperature of 100°C. at 4 mm Hg. 27 grams of N-phenyl-N'-cyclohexyl-p-phenylenediamine were recovered.

reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
catalyst | methanesulfonic acid | 5 drops | CS(=O)(=O)O | CH4O3S
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | N-phenyl-N'-cyclohexyl-p-phenylenediamine | C1(=CC=CC=C1)NC1=CC=C(C=C1)NC1CCCCC1 | C18H22N2
